US04564613
N-Methyl-4-phenyl-8-(hydroxyiminoacetylamino)isoquinoline
A solution of 10.75 g (0.0345 mol) of N-methyl-4-phenyl-8-amino-isoquinoline hydrochloride in 22 ml of H2O was added to 6.23 g (0.0376 mol) of chloral hydrate in 86 ml of water. After 5 minutes, 42.5 g of Na2SO4 and a solution of 7.6 g (0.109 mol) of hydroxylamine hydrochloride in 36 ml of H2O were added. The reaction mixture was warmed to 106° C. (internal temperature) in the course of 40 minutes. After 2 minutes, the mixture was cooled rapidly to 18° C. with ice/H2O. 200 ml of methanol were added to the reaction mixture and a pH of 7.6 was established with 2N NaOH. The precipitate which had separated out was filtered off with suction and washed thoroughly with H2O. After drying, 9.7 g (90.2% of theory) of crude product of melting point 151.3° C. (Mettler FP 61) were obtained.

reactant | N-methyl-4-phenyl-8-amino-isoquinoline hydrochloride | 0.0345 mol, 10.75 g | Cl.CN1CC2=C(C=CC=C2C(=C1)C1=CC=CC=C1)N
reactant | chloral hydrate | 0.0376 mol, 6.23 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | Na2SO4 | 42.5 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 0.109 mol, 7.6 g | Cl.NO
reactant | NaOH | 2N | [OH-].[Na+]
solvent | H2O | 22 ml | O | H2O
solvent | water | 86 ml | O | H2O
solvent | H2O | 36 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | N-Methyl-4-phenyl-8-(hydroxyiminoacetylamino)isoquinoline | CN1CC2=C(C=CC=C2C(=C1)C1=CC=CC=C1)NC(C=NO)=O | C18H17N3O2
